data/oMe_Silver.jsonl
{"reaction_id": "NR-148_1-CCCC(C)C_2-C(F)(F)F_3-CCCC(C)C_4-CC_5-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_6-C(C)(C)C","name": "Mukaiyama Aldol Addition","level": "medium","reactants_smiles": ["C(=C(C(F)(F)F)CCCC(C)C)(CCCC(C)C)O[Si](CC)(CC)(CC)","C(=O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)"],"products_smiles": ["CCCC(C)CC(=O)C(C(F)(F)F)(CCCC(C)C)C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Si](CC)(CC)(CC))(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)","rationale": "The Lewis acid coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon, making it more susceptible to nucleophilic attack by the silyl enol ether."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCCC(C)CC(=O)C(C(F)(F)F)(CCCC(C)C)C(O[Si](CC)(CC)(CC))(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)","rationale": "The silyl enol ether attacks the activated carbonyl carbon, driven by the strong nucleophilicity of the enol double bond and stabilization of the developing positive charge by the silyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCC(C)CC(=O)C(C(F)(F)F)(CCCC(C)C)C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(C)(C)C)","rationale": "Proton transfer occurs to replace the silyloxy group with a hydroxyl, favored under acidic conditions and driven by the stability of the neutral β-hydroxy carbonyl product."}],"description": "Under acidic conditions, the Mukaiyama aldol addition proceeds via Lewis acid activation of the carbonyl, enabling nucleophilic attack by the silyl enol ether. Subsequent proton transfer yields the β-hydroxy carbonyl product with high chemoselectivity due to enhanced electrophilicity and stable intermediates."}
{"reaction_id": "NR-138_1-c1ccc(N(=O)=O)cc1_2-C(=O)OCC_3-C_4-C(F)(F)F_5-C(Br)(Br)Br_6-c1ccc(C(F)(F)F)cc1","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)c1ccc(N(=O)=O)cc1)(C(=O)OCC)(C)","C(=O)(C(F)(F)F)(C(Br)(Br)Br)","Nc1ccc(C(F)(F)F)cc1"],"products_smiles": ["C(C(=O)c1ccc(N(=O)=O)cc1)(C(=O)OCC)(C)C(C(F)(F)F)(C(Br)(Br)Br)Nc1ccc(C(F)(F)F)cc1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])c1ccc(N(=O)=O)cc1)(C(=O)OCC)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C(=O)OCC)=C(O)c1ccc(N(=O)=O)cc1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])c1ccc(N(=O)=O)cc1)(C(=O)OCC)(C)C(C(F)(F)F)(C(Br)(Br)Br)Nc1ccc(C(F)(F)F)cc1","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)c1ccc(N(=O)=O)cc1)(C(=O)OCC)(C)C(C(F)(F)F)(C(Br)(Br)Br)Nc1ccc(C(F)(F)F)cc1","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
